US07781478B2
A biphasic mixture of 2-(4-amino-3-fluorophenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (74 mg, 0.24 mmol), prepared as described in example 1Gb, and propyl chloroformate (0.033 mL, 0.29 mmol) in EtOAc (3 mL) and saturated NaHCO3 (3 mL) is prepared at 0° C. and then allowed to warm to room temperature and stirred for 24 h. The reaction is then diluted with H2O and extracted with EtOAc (2×). The organic phases are washed with H2O and saturated NaCl and then dried and concentrated. Flash chromatography (EtOAc/hexanes 10-40%) gives 60 mg (63%) of [4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-2-fluorophenyl]-carbamic acid propyl ester as an off-white solid.

reactant | 2-(4-amino-3-fluorophenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.24 mmol, 74 mg | NC1=C(C=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC)F | C18H16FN3O
reactant | propyl chloroformate | 0.29 mmol, 0.033 mL | ClC(=O)OCCC | C4H7ClO2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
solvent | H2O | O | H2O
product | [4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-2-fluorophenyl]-carbamic acid propyl ester | 60 mg, 63% | C(CC)OC(NC1=C(C=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC)F)=O | C22H22FN3O3
